US07449486B2
Step C: Preparation of 2,5-difluorobenzoic acid [4-(tert-butyldimethylsilanyloxy)-1-phenylbutylidene]-hydrazide:
To a solution of 4-(tert-butyldimethylsilanyloxy)-1-phenylbutan-1-one (420 mg, 1.5 mmol) in EtOH (4 mL) was added 2,5-difluorobenzoic acid hydrazide (260 mg, 1.5 mmol) and acetic acid (0.07 mL, 1.2 mmol). After stirring the reaction mixture at 90° C. for 5 hours, more acetic acid (0.1 mL) was added. The mixture was stirred at 90° C. for 40 hours and then concentrated under reduced pressure. The mixture of starting material and product was carried forward without further purification.

reactant | 4-(tert-butyldimethylsilanyloxy)-1-phenylbutan-1-one | 1.5 mmol, 420 mg | [Si](C)(C)(C(C)(C)C)OCCCC(=O)C1=CC=CC=C1 | C16H26O2Si
reactant | 2,5-difluorobenzoic acid hydrazide | 1.5 mmol, 260 mg | FC1=C(C(=O)NN)C=C(C=C1)F | C7H6F2N2O
reactant | acetic acid | 1.2 mmol, 0.07 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 4 mL | CCO | C2H6O
product | 2,5-difluorobenzoic acid [4-(tert-butyldimethylsilanyloxy)-1-phenylbutylidene]-hydrazide | [Si](C)(C)(C(C)(C)C)OCCCC(C1=CC=CC=C1)=NNC(C1=C(C=CC(=C1)F)F)=O | C23H30F2N2O2Si
